US09169209B2
B: 4-amino-N-(2-(trifluoromethoxy)phenyl)benzenesulfonamide
To a mixture of 4-nitro-N-(2-(trifluoromethoxy)phenyl)benzenesulfonamide (2.62 g, 7.23 mmol) in EtOH (60 mL) was added Tin (II) chloride dehydrate (8.16 g, 36.2 mmol). The reaction mixture was stirred for 4 h at 80° C. LC-MS and TLC analyses indicated that the reaction was completed. The mixture was cooled down to room temperature. The EtOH was removed via vacuo and the residual was taken up in EtOAc (100 mL), followed by the addition of 2N NaOH (40 mL to make basic). After stirring vigorously for 1 h, the precipitates were filtered through celite and washed with EtOAc. The filtrate layers were separated. The organic layer was washed with 1N NaOH (optional), then water and brine, dried (Na2SO4), filtered, and concentrated. The crude product (brown residue, 1.42 g) was subjected a column purification on BioTage (0-6% MeOH in DCM) to yield a desired product (1.23 g, 51% yield).

reactant | 4-nitro-N-(2-(trifluoromethoxy)phenyl)benzenesulfonamide | 7.23 mmol, 2.62 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC(F)(F)F | C13H9F3N2O5S
reactant | Tin (II) chloride | 36.2 mmol, 8.16 g | [Sn](Cl)Cl
solvent | EtOH | 60 mL | CCO | C2H6O
product | 4-amino-N-(2-(trifluoromethoxy)phenyl)benzenesulfonamide | 1.23 g, 51% yield | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC(F)(F)F | C13H11F3N2O3S
